US06903114B2
1-Nitronaphthalene-2,3-diol, Method A
Fuming nitric acid (4.2 ml) was added to methylene chloride (50 ml) and the resulting solution diluted with diethyl ether (100 ml): Then 3-methylbuthylnitrite (1.9 ml) was added and this final solution added at 25-30° C. to a solution of 2,3-dihydroxynaphthalene (16.0 g) in ether (100 ml).The reaction mixture was washed with water, extracted into potassium bicarbonate (1 M), acidified and finally extracted into ether. After column chromatography (SiO2, toluene-ethyl acetate-acetic acid 18:1:1) the product was crystallized from toluene. Yield: 1.5 g, melting point 141-143° C.

reactant | nitric acid | 4.2 ml | [N+](=O)(O)[O-] | HNO3
reactant | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
reactant | 2,3-dihydroxynaphthalene | 16.0 g | OC1=CC2=CC=CC=C2C=C1O | C10H8O2
solvent | diethyl ether | 100 ml | C(C)OCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
product | 1-Nitronaphthalene-2,3-diol | [N+](=O)([O-])C1=C(C(=CC2=CC=CC=C12)O)O | C10H7NO4
